US07875639B2
N-[(2Z)-3-(2-cyclohexylethyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, (2-bromoethyl)-cyclohexane and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 0.93-1.05 (m, 2 H) 1.10-1.26 (m, 3 H) 1.29-1.38 (m, 1 H) 1.48-1.57 (m, 2 H) 1.58-1.75 (m, 9 H) 1.75-1.83 (m, J=12.79 Hz, 2 H) 1.85 (d, J=2.50 Hz, 6 H) 1.94-2.02 (m, 3 H) 2.15 (s, 3 H) 2.20 (s, 3 H) 4.07-4.18 (m, 2 H); MS (ESI) m/z 401 (M+H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | (2-bromoethyl)-cyclohexane | BrCCC1CCCCC1 | C8H15Br
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-3-(2-cyclohexylethyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | C1(CCCCC1)CCN1/C(/SC(=C1C)C)=N/C(=O)C12CC3CC(CC(C1)C3)C2 | C24H36N2OS
